US06727264B1
N-(3-{1-[3-(2,4-DIFLUOROPHENOXY)-3-(4-FLUOROPHENYL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using N-(3-{1-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 2,4-difluorophenol: ESMS m/e: 511.1 (M+H)+.

reactant | N-(3-{1-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | FC1=CC=C(C=C1)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)O | C24H31FN2O2
reactant | 2,4-difluorophenol | FC1=C(C=CC(=C1)F)O | C6H4F2O
product | N-(3-{1-[3-(2,4-DIFLUOROPHENOXY)-3-(4-FLUOROPHENYL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | FC1=C(OC(CCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=C(C=C2)F)C=CC(=C1)F | C30H33F3N2O2
